US06800648B2
{8-Hydroxy-7-[(methoxycarbonyl)amino]-2,3-dihydro-1.4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate
A solution of {(2R)-8-formyl-7-[(methoxycarbonyl)amino]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate (8.46 g, 20.0 mmole) in methylene chloride (250 mL) was added dropwise to a solution of 57-86% m-chloro-peroxybenzoic acid (11.5 g, 40-48 mmole) in methylene chloride (120 mL). The reaction was stirred under nitrogen overnight. After dilution to 300 mL with methylene chloride, the solution was washed with saturated sodium aqueous sodium bicarbonate (2×200 mL) and with brine (100 mL), dried over magnesium sulfate, filtered and evaporated to dryness in vacuum. A H1 NMR spectra of the crude product was taken and it was determined to be the intermediate formate ester. Hydrolysis was effected by stirring in methanol over basic alumina for 15 hours. After filtration of the mixture and evaporation of the filtrate in vacuum, the residue was purified by column chromatography on silica gel with 20% hexane/methylene chloride to remove the impurities and methylene chloride to elute the product. Combination of the product fractions and concentration in vacuum gave the (R)-enantiomer of the title compound as a dark green foam (5.41 g, 66%). 1H (CDCl3) doublet, 7.8 δ (2 H); doublet, 7.3 δ (2 H); doublet, 7.2 δ (1 H); broad singlet, 6.8 δ (1 H); doublet, 6.4 δ (1 H); broad singlet, 6.0 δ (1 H); multiplet, 4.4 δ(1 H); multiplet, 4.2 δ (3 H); multiplet, 4.0 δ (1 H); singlet, 3.8 δ (3 H); singlet, 2.4 δ (3 H).

reactant | {(2R)-8-formyl-7-[(methoxycarbonyl)amino]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 20.0 mmole, 8.46 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)NC(=O)OC)C=O | C19H19NO8S
reactant | m-chloro-peroxybenzoic acid | 40-48 mmole, 11.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | {8-Hydroxy-7-[(methoxycarbonyl)amino]-2,3-dihydro-1.4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 5.41 g, 66% | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)NC(=O)OC)O | C18H19NO8S
